US05998433
b) Synthesis of (Z)-N,N-dimethyl-[5-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
(Z)-N,N-Dimethyl-[5-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.134 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | (Z)-N,N-Dimethyl-[5-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.134 g | CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1=CC=C(\C=C/C2=CC=C(C=C2)Cl)C=C1 | C25H25ClN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-N,N-dimethyl-[5-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(=O)C1=CC=C(\C=C/C2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C25H25ClN2O2.ClH/c1-27(2)17-23-15-21-16-28(14-13-24(21)30-23)25(29)20-9-5-18(6-10-20)3-4-19-7-11-22(26)12-8-19;/h3-12,15H,13-14,16-17H2,1-2H3;1H/b4-3-;
